US09388173B2
Step 1: 6-bromo-1-(1-methylazetidin-3-yl)-1H-benzo[d]imidazole
To a solution of 1-(azetidin-3-yl)-6-bromo-1H-benzo[d]imidazole (100 mg, 0.396 mmol) in MeOH (10 mL) was added HCHO (300 mg, 3.96 mmol) and AcOH (two drops). The reaction mixture was stirred at room temperature for 30 min. NaCNBH3 (29.7 mg, 0.476 mmol) was then added and the reaction mixture stirred at room temperature for 2 h. The solvents were then removed by concentration and the residue was used for next step without purification. ESI-MS (m/z): 266.1 [M+1]

reactant | 1-(azetidin-3-yl)-6-bromo-1H-benzo[d]imidazole | 0.396 mmol, 100 mg | N1CC(C1)N1C=NC2=C1C=C(C=C2)Br | C10H10BrN3
reactant | HCHO | 3.96 mmol, 300 mg | C=O | CH2O
reactant | NaCNBH3 | 0.476 mmol, 29.7 mg | [BH3-]C#N.[Na+]
solvent | MeOH | 10 mL | CO | CH4O
catalyst | AcOH | two drops | CC(=O)O | C2H4O2
product | 6-bromo-1-(1-methylazetidin-3-yl)-1H-benzo[d]imidazole | BrC=1C=CC2=C(N(C=N2)C2CN(C2)C)C1 | C11H12BrN3
